US04133885
A mixture of 1-(2-phthalimidoethyl)-5,7-dimethyl-1,8-naphthyridin-2(1H)-one (5.2 gm., 0.015 mole) and 95% hydrazine (1.8 ml., 0.053 mole) in absolute ethanol (50 ml.) is refluxed for one hour. The reaction is cooled, water (37.8 ml.) and concentrated hydrochloric acid (37.5 ml.) are added. After refluxing for one half hour, the mixture is cooled in an ice bath and phthalhydrazide (2.85 gm., 0.0125 mole) is filtered off. The filtrate is concentrated and the residue is dissolved in water, made basic with saturated sodium carbonate and extracted with methylene chloride. The organic layer is dried over anhydrous sodium sulfate, filtered and evaporated. The residue containing the free base of the title compound is dissolved in a minimum amount of methanol and treated with ethereal hydrogen chloride. Recrystallization of the product from isopropanol gives 1-(2-aminoethyl)-5,7-dimethyl-1,8-naphthyridine-2(1H)-one hydrochloride melting at 253.5-254.5° C.

reactant | 1-(2-phthalimidoethyl)-5,7-dimethyl-1,8-naphthyridin-2(1H)-one | 0.015 mole, 5.2 gm | C1(C=2C(C(N1CCN1C(C=CC3=C(C=C(N=C13)C)C)=O)=O)=CC=CC2)=O | C20H17N3O3
reactant | hydrazine | 0.053 mole, 1.8 ml | NN | H4N2
reactant | hydrochloric acid | 37.5 ml | Cl | ClH
reactant | phthalhydrazide | 0.0125 mole, 2.85 gm | C(C=1C(C(=O)NN)=CC=CC1)(=O)NN | C8H10N4O2
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | water | 37.8 ml | O | H2O
product | 1-(2-aminoethyl)-5,7-dimethyl-1,8-naphthyridine-2(1H)-one hydrochloride | Cl.NCCN1C(C=CC2=C(C=C(N=C12)C)C)=O | InChI=1S/C12H15N3O.ClH/c1-8-7-9(2)14-12-10(8)3-4-11(16)15(12)6-5-13;/h3-4,7H,5-6,13H2,1-2H3;1H
